US04487930
A solution of 9.1 g of 6-chloro-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine and 17.7 g of 1-(4-aminobutyl)pyrrolidine in 50 ml of 2-methoxyethanol was heated at reflux for 16 hours. The reaction mixture was then poured into ice water and the tan solid which formed was separated by filtration and recrystallized from toluene to give 6-[4-(1-pyrrolidinyl)butylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine melting at about 158.5°-160° C.

reactant | 6-chloro-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 9.1 g | ClC1=NN2C(C=3CCCCC13)=NN=C2 | C9H9ClN4
reactant | 1-(4-aminobutyl)pyrrolidine | 17.7 g | NCCCCN1CCCC1 | C8H18N2
solvent | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | 6-[4-(1-pyrrolidinyl)butylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | N1(CCCC1)CCCCNC1=NN2C(C=3CCCCC13)=NN=C2 | C17H26N6
